US07262192B2
(2R)-2-Ethylpiperazine dihydrochloride
(2R)-2-Aminobutanoic acid (1.57 g, 15.22 mmol) was dissolved in ethanol (40 mL) and the solution treated with thionyl chloride (5 mL, 63.8 mmol). The reaction mixture was heated at reflux for 70 hours. The reaction mixture was cooled and concentrated in vacuo. The residue was azeotroped with toluene (50 mL) to give a clear oil. The oil (2.78 g, 16.58 mmol) was dissolved in dichloromethane (50 mL) and the solution treated with carbobenzyloxyglycine (3.47 g, 16.58 mmol), 1-hydroxybenzotriazole hydrate (2.55 g, 16.65 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.18 g, 16.59 mmol) and triethylamine (6.9 mL, 49.5 mmol). The reaction mixture was stirred for 18 hours at room temperature. The reaction mixture was washed with water, citric acid, brine and sodium hydrogencarbonate solution and then dried over magnesium sulphate and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with ethyl acetate:pentane 50:50. The crude product (4.22 g, 13.08 mmol) was dissolved in methanol (100 mL) and the solution treated with 10% Pd/C (450 mg) and stirred under 60 psi of hydrogen at room temperature for 18 hours. The reaction mixture was filtered through Arbocel® and the filtrate concentrated in vacuo. The residue (1.6 g, 11.25 mmol) was dissolved in 1,2-dimethoxyethane (25 mL) and the solution treated with a 1M solution of borane in tetrahydrofuran (45 mL, 45 mmol). The reaction mixture was heated to reflux for 18 hours, then quenched with methanol and stirred at room temperature for 30 minutes. The reaction mixture was concentrated in vacuo and the residue dissolved in methanol (50 mL) and treated with a saturated solution of hydrogen chloride in dioxane (15 mL). The solution was refluxed for 2 hours, then concentrated in vacuo and the residue dissolved in ether (50 mL). The solution was concentrated in vacuo to yield the title product as a yellow oil that solidifed on standing.

reactant | (2R)-2-Aminobutanoic acid | 15.22 mmol, 1.57 g | N[C@@H](C(=O)O)CC | C4H9NO2
reactant | thionyl chloride | 63.8 mmol, 5 mL | S(=O)(Cl)Cl | Cl2OS
reactant | carbobenzyloxyglycine | 16.58 mmol, 3.47 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | 1-hydroxybenzotriazole hydrate | 16.65 mmol, 2.55 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 16.59 mmol, 3.18 g | Cl.CN(CCCN=C=NCC)C
reactant | triethylamine | 49.5 mmol, 6.9 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
reactant | borane | B | BH3
reactant | tetrahydrofuran | 45 mmol, 45 mL | O1CCCC1 | C4H8O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 100 mL | CO | CH4O
solvent | 1,2-dimethoxyethane | 25 mL | COCCOC | C4H10O2
catalyst | Pd/C | 450 mg | [Pd] | Pd
product | (2R)-2-Ethylpiperazine dihydrochloride | Cl.Cl.C(C)[C@H]1NCCNC1 | InChI=1S/C6H14N2.2ClH/c1-2-6-5-7-3-4-8-6;;/h6-8H,2-5H2,1H3;2*1H/t6-;;/m1../s1
